US07238716B2
A mixture of 2-methyl-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (18.04 g), 3-chloroperbenzoic acid (18.85 g) and tetrahydrofuran (100 mL) was stirred overnight at room temperature and concentrated. The residue was subjected to silica gel column chromatography to give a colorless oil from a fraction eluted with tetrahydrofuran. A solution of the obtained colorless oil in acetic anhydride (100 mL) was slowly added to acetic anhydride (200 mL) heated to 130° C. and the mixture was stirred for 2 hrs. and concentrated. The residue was dissolved in ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate and then with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give [5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-pyridylmethyl] acetate (18.09 g, yield 83%) as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | 2-methyl-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 18.04 g | CC1=NC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H16N2O2
reactant | 3-chloroperbenzoic acid | 18.85 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-pyridylmethyl] acetate | 18.09 g, yield 83% | C(C)(=O)OCC1=NC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H18N2O4
